US04016281
4.15 g. of 2-(4-phenyl-4-hydroxypiperidinomethyl)-7-nitro-1-tetralone hydrochloride are dissolved in 30 ml. of methanol and are reduced at 20° and 1 atmosphere over 0.3 g. of pre-reduced platinum oxide. After the calculated quantity of hydrogen has been absorbed, the mixture is filtered, evaporated and worked up in the customary manner to give 2-(4-phenyl-4-hydroxypiperidinomethyl)-7-amino-1-tetralone.

reactant | 2-(4-phenyl-4-hydroxypiperidinomethyl)-7-nitro-1-tetralone hydrochloride | Cl.C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O)O
solvent | methanol | CO | CH4O
product | 2-(4-phenyl-4-hydroxypiperidinomethyl)-7-amino-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC(=CC=C2CC1)N)=O)O | C22H26N2O2
